US05223389
Three g of 4-hydroxyquinoline and 2 g of 3-carboxyethylrhodanine were added to 200 ml of tetrahydrofuran. Two g of N,N-dicyclohexylcarbodiimide was added to the solution. The material was stirred at room temperature for 8 hours. The resulting insoluble matters were removed by filtration. One l of ethyl acetate was added to the filtrate. The resulting crystal was filtered off to obtain 2.2 g of 3-(4-quinolyloxycarbonylethyl)rhodanine.

reactant | 4-hydroxyquinoline | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | 3-carboxyethylrhodanine | 2 g | C(=O)(O)CCN1C(SCC1=O)=S | C6H7NO3S2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(4-quinolyloxycarbonylethyl)rhodanine | 2.2 g | N1=CC=C(C2=CC=CC=C12)OC(=O)CCN1C(SCC1=O)=S | C15H12N2O3S2
